US08557983B2
(R)-tert-butyl 1-(oxetan-3-yl)pyrrolidin-3-ylcarbamate
The title compound was prepared by substituting (R)-tert-butyl pyrrolidin-3-ylcarbamate for tert-butyl piperazine-1-carboxylate and 3-oxetanone for 4′-chlorobiphenyl-2-carboxaldehyde in EXAMPLE 1A.

reactant | tert-butyl piperazine-1-carboxylate | N1(CCNCC1)C(=O)OC(C)(C)C | C9H18N2O2
reactant | 3-oxetanone | O1CC(C1)=O | C3H4O2
reactant | 4′-chlorobiphenyl-2-carboxaldehyde | ClC1=CC=C(C=C1)C=1C(=CC=CC1)C=O | C13H9ClO
product | (R)-tert-butyl 1-(oxetan-3-yl)pyrrolidin-3-ylcarbamate | O1CC(C1)N1C[C@@H](CC1)NC(OC(C)(C)C)=O | C12H22N2O3
